US05990116
5-[2-(2,5-Dimethoxyphenyl)ethyl]-2-Acetylamino Benzoic Acid Methylester (Process a)
150 mg of 5-[2-(2,5-dimethoxyphenyl)ethenyl]-2-acetylamino benzoic acid methylester are dissolved in 10 ml of ethyl acetate. After addition of 25 mg of palladium (10% on charcoal) the mixture is stirred overnight under an atmosphere of hydrogen and filtered over celite. The filtrate is evaporated in vacuo to obtain the title compound as colourless crystals. mp:81-83°.

reactant | 5-[2-(2,5-dimethoxyphenyl)ethenyl]-2-acetylamino benzoic acid methylester | 150 mg | COC(C1=C(C=CC(=C1)C=CC1=C(C=CC(=C1)OC)OC)NC(C)=O)=O | C20H21NO5
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 25 mg | [Pd] | Pd
product | 5-[2-(2,5-Dimethoxyphenyl)ethyl]-2-Acetylamino Benzoic Acid Methylester | COC(C1=C(C=CC(=C1)CCC1=C(C=CC(=C1)OC)OC)NC(C)=O)=O | C20H23NO5
